US06984642B1
2-(3{[tert-Butyl(dimethyl)silyl]oxy}propyl)-1H-benzimidazole
To this end, tert-butyldimethylsilyl chloride (TBDMSCI) (14.68 g, 97.37 mmol) was added a little at a time to a solution of 2-(3-hydroxypropyl)-benzimidazole (15.60 g, 88.52 mmol) in DMF (265 ml) and triethylamine (20.27 ml, 145.41 mmol). The mixture was stirred at RT overnight and then admixed with water (800 ml) and extracted with diethyl ether. The organic phase was dried over sodium sulphate and chromatographed over silica gel (mobile phase: cyclohexane/ethyl acetate=6:1), giving 25 g (97%) of colourless crystals. MS (DCI): 291 (M+H)+

reactant | tert-butyldimethylsilyl chloride | 97.37 mmol, 14.68 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | 2-(3-hydroxypropyl)-benzimidazole | 88.52 mmol, 15.60 g | OCCCC=1NC2=C(N1)C=CC=C2 | C10H12N2O
reactant | triethylamine | 145.41 mmol, 20.27 ml | C(C)N(CC)CC | C6H15N
reactant | water | 800 ml | O | H2O
solvent | DMF | 265 ml | CN(C)C=O | C3H7NO
product | 2-(3{[tert-Butyl(dimethyl)silyl]oxy}propyl)-1H-benzimidazole | 25 g, 97% | [Si](C)(C)(C(C)(C)C)OCCCC1=NC2=C(N1)C=CC=C2 | C16H26N2OSi
